US05177075
3,4-Dihydro-5-(2-oxiranylmethoxy)-1(2H)-isoquinolinone
To a solution of sodium methoxide (made from 2.4 g (106 mmol) of sodium) in 360 ml of methanol was added 14.5 g (106 mmol) of 3,4-dihydro-5-hydroxy-1(2H)-isoquinolinone. Then 22.2 g of epichlorohydrin in 250 ml of methanol was added dropwise at 55°. After 18 hours an additional 5 g of epichlorohydrin was added and the mixture was stirred for two hours more. The reaction was cooled and concentrated. The residue was chromatographed (SiO2, chloroform/methanol 8:1) to provide 7.9 g (34%) of the desired product. An analytical sample was obtained by recrystallization from chloroform; mp 165°-166°.

reactant | sodium methoxide | 106 mmol, 2.4 g | C[O-].[Na+]
reactant | sodium | 106 mmol | [Na] | Na
reactant | 3,4-dihydro-5-hydroxy-1(2H)-isoquinolinone | 106 mmol, 14.5 g | OC1=C2CCNC(C2=CC=C1)=O | C9H9NO2
reactant | epichlorohydrin | 22.2 g | C(Cl)C1CO1 | C3H5ClO
reactant | epichlorohydrin | 5 g | C(Cl)C1CO1 | C3H5ClO
solvent | methanol | 360 ml | CO | CH4O
solvent | methanol | 250 ml | CO | CH4O
product | 3,4-Dihydro-5-(2-oxiranylmethoxy)-1(2H)-isoquinolinone | 7.9 g, 34% | O1C(C1)COC1=C2CCNC(C2=CC=C1)=O | C12H13NO3
